US08431563B2
The 2-(4-((2S)-2-benzyl-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol (147 mg, 0.404 mmol) was dissolved in CH2Cl2 (10 mL) was cooled to 0° C. To this solution was added triethylamine (124 μL, 0.889 mmol) followed by 5-bromothiophene-2-sulfonyl chloride (127 mg, 0.485 mmol, Sigma-Aldrich, St. Louis, Mo.). The mixture was allowed to slowly warm to room temperature and stirred for 2 h. The mixture was concentrated and absorbed onto silica gel. The crude material was purified via column chromatography (40 g silica gel, 0 to 10% MeOH in CH2Cl2) to give 2-(4-((2S)-2-benzyl-4-((5-bromo-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol (105 mg).

reactant | 2-(4-((2S)-2-benzyl-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol | 0.404 mmol, 147 mg | C(C1=CC=CC=C1)[C@@H]1N(CCNC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C20H23F3N2O
reactant | triethylamine | 0.889 mmol, 124 μL | C(C)N(CC)CC | C6H15N
reactant | 5-bromothiophene-2-sulfonyl chloride | 0.485 mmol, 127 mg | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((2S)-2-benzyl-4-((5-bromo-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol | 105 mg | C(C1=CC=CC=C1)[C@@H]1N(CCN(C1)S(=O)(=O)C=1SC(=CC1)Br)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C24H24BrF3N2O3S2
